US07291635B2
To a solution of the title I compound, 2-(2-amino-benzoylamino)-3-(3-benzyloxy-4-nitro-phenyl)-propionic acid (317 mg, 0.728 mmol) in CH2Cl2 (10 mL) is added HOBt (111.5 mg, 0.728 mmol) and 1-ethyl-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDAC.HCl, 140 mg, 0,72 mmol) and the mixture is stirred at RT for 4 h and evaporated. The residue is partitioned between EtOAc and water and the organic solution is washed with 1N aqueous HCl, water, saturated aqueous NaHCO3 and brine, dried over anhydrous MgSO4, decolorized and evaporated to a small volume. The precipitated product is collected by filtration and dried to give 3-(3-benzyloxy-4-nitro-benzyl)-3,4-dihydro-1H-benzo[1,4]diazepine-2,5-dione: mp=243-245° C.

reactant | 2-(2-amino-benzoylamino)-3-(3-benzyloxy-4-nitro-phenyl)-propionic acid | 0.728 mmol, 317 mg | NC1=C(C(=O)NC(C(=O)O)CC2=CC(=C(C=C2)[N+](=O)[O-])OCC2=CC=CC=C2)C=CC=C1 | C23H21N3O6
reactant | HOBt | 0.728 mmol, 111.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-ethyl-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0,72 mmol, 140 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-benzyloxy-4-nitro-benzyl)-3,4-dihydro-1H-benzo[1,4]diazepine-2,5-dione | C(C1=CC=CC=C1)OC=1C=C(CC2C(NC3=C(C(N2)=O)C=CC=C3)=O)C=CC1[N+](=O)[O-] | C23H19N3O5
